US06071927
Methyl-3-Bromo-4-hydroxybenzoate
Sulfuric acid (conc., 10 ml) was added to a solution of 3-bromo-4-hydroxybenzoic acid (10.0 g, 46 mmol) in methanol (100 ml) and the mixture was stirred at room temperature for 72 h. The solvent was evaporated under reduced pressure and the residue was dissolved in ethyl acetate (250 ml). The mixture was washed with saturated aqueous sodium bicarbonate (2×250 ml), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (8.83 g, 83%). 1H NMR (250 MHz, CDCl3) δ8.19 (1 H, d, J 2.0 Hz), 7.92 (1 H, dd, J 8.5, 2.0 Hz), 7.05 (1 H, d, J 8.5 Hz), 5.91 (1 H, s), and 3.90 (3 H, s).

reactant | Sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-bromo-4-hydroxybenzoic acid | 46 mmol, 10.0 g | BrC=1C=C(C(=O)O)C=CC1O | C7H5BrO3
reactant | methanol | 100 ml | CO | CH4O
product | Methyl-3-Bromo-4-hydroxybenzoate | 8.83 g, 83% | COC(C1=CC(=C(C=C1)O)Br)=O | C8H7BrO3
